US06093723
treating the 3-(2-amino)ethyl indole with 1-tosyl-3,4,4-trimethylimidazolidine to produce a tetrahydro-β-carboline derivative; and

reactant | 3-(2-amino)ethyl indole | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 1-tosyl-3,4,4-trimethylimidazolidine | S(=O)(=O)(C1=CC=C(C)C=C1)N1CN(C(C1)(C)C)C | C13H20N2O2S
product | tetrahydro-β-carboline | C1NCCC=2C3=CC=CC=C3NC12 | C11H12N2
